US08008483B2
4-methyl-3-(trifluoromethyl)benzonitrile (10 g, 54 mmol) was dissolved in 200 mL of carbon tetrachloride and treated with N-bromosuccinimide (10.5 g, 59 mmol) and benzoyl peroxide (1.3 g, 0.54 mmol). The reaction mixture was heated to reflux temperature and stirred for one week. Then, 80 mL of water was added and the layers were separated. The aqueous layer was extracted with methylene chloride (2×50 mL). The combined organic layers were washed with water (2×50 mL), dried over magnesium sulfate, and concentrated to provide 4-(bromomethyl)-3-(trifluoromethyl)benzonitrile (14 g, 53 mmol) as a yellow oil which was used in the next step without further purification.

reactant | 4-methyl-3-(trifluoromethyl)benzonitrile | 54 mmol, 10 g | CC1=C(C=C(C#N)C=C1)C(F)(F)F | C9H6F3N
reactant | N-bromosuccinimide | 59 mmol, 10.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.54 mmol, 1.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | water | 80 mL | O | H2O
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(bromomethyl)-3-(trifluoromethyl)benzonitrile | 53 mmol, 14 g | BrCC1=C(C=C(C#N)C=C1)C(F)(F)F | C9H5BrF3N
